US04530899
To 100 ml of dichloroethane were added 12.5 g of m-benzenesulfonamidophenol and 13.3 g of aluminum chloride and the resultant mixture was heated to 60° C. with stirring. To the mixture was added dropwise a solution of 3.6 ml of acetyl chloride dissolved in dichloroethane over a period of 2 hours followed by further heating to the same temperature for 2 hours. After allowing to cool, the mixture was placed in a hydrochloric acid acqueous solution and extracted with ethyl acetate. The extract was dried, concentrated and recrystallized from a mixture of hexane and ethyl acetate to provide 8.5 g of 4'-hydroxy-2'-benzenesulfonamidoacetophenone.

reactant | m-benzenesulfonamidophenol | 12.5 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=CC1)O | C12H11NO3S
reactant | aluminum chloride | 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 3.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 4'-hydroxy-2'-benzenesulfonamidoacetophenone | 8.5 g | OC1=CC(=C(C=C1)C(C)=O)NS(=O)(=O)C1=CC=CC=C1 | C14H13NO4S
